US04435407
To the suspension of 2.1 g of 50% NaH mineral oil (washed with petroleum ether) in 25 ml of 1,2-dimethoxyethane and 15 ml of dimethylformamide was added 6.7 g of 2-(cyanoacetylamino)thiazole. After the moderately exothermic, effervescent reaction of the hydride, there was added (swirling) a solution of N-methyl-2-pyrroloyl chloride (prepared from 2.5 g of the acid) in 20 ml of 1,2-dimethoxyethane. The dark suspension resulting from the exothermic reaction was let stand overnight. After treatment with ca. 300 ml water, the filtered aqueous solution was acidified with 6 ml of 6 N HCl. The crude product was collected, redissolved in NaHCO3 solution, and the filtered solution carefully acidified with 6 N HCl. The product was collected, washed with water, dried, and triturated with methanol to give crystals, m.p. 201°-2° dec. Recrystallization from dimethylformamide-methanol gave β-oxo-α-(2-thiazolylcarbamoyl)-β-(1-methyl-2-pyrrolyl)propionitrile, m.p. 208°-9° dec.

reactant | NaH | 2.1 g | [H-].[Na+]
reactant | 2-(cyanoacetylamino)thiazole | 6.7 g | C(#N)CC(=O)NC=1SC=CN1 | C6H5N3OS
reactant | hydride | [H-]
reactant | N-methyl-2-pyrroloyl chloride | CN1C(=CC=C1)C(=O)Cl | C6H6ClNO
reactant | HCl | 6 N, 6 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | ca. 300 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | β-oxo-α-(2-thiazolylcarbamoyl)-β-(1-methyl-2-pyrrolyl)propionitrile | O=C(C(C#N)C(NC=1SC=CN1)=O)C=1N(C=CC1)C | C12H10N4O2S
